US05138064
(2S,4R)-4-Hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxycarbonyl)-2-imidazolin-2-yl]pyrrolidine (655 mg) and triphenylphosphine (0.51 g) were dissolved in tetrahydrofuran (20 ml) at 0° C. To this solution was added dropwise a solution of diethyl azodicarboxylate (0.30 ml) in tetrahydrofuran (5 ml) with stirring for 30 minutes, followed by addition of a solution of thioacetic S-acid (0.14 ml). Stirring was continued at ambient temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate and brine, dried over magnesium sulfate and evaporated. The obtained oily residue was subjected to a column chromatography on silica gel and eluted with a mixture of dichloromethane and acetone (20:1, V/V) to give (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxycarbonyl)-2-imidazolin-2-yl]pyrrolidine (1.2 g).

reactant | (2S,4R)-4-Hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxycarbonyl)-2-imidazolin-2-yl]pyrrolidine | 655 mg | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N(CCN1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H23N5O9
reactant | triphenylphosphine | 0.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.30 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thioacetic S-acid | 0.14 ml | C(C)(=O)S | C2H4OS
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxycarbonyl)-2-imidazolin-2-yl]pyrrolidine | 1.2 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N(CCN1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H25N5O9S
